US03983120
A. Preparation of N-(o-Nitrobenzyl)ethyl glycine
To a suspension of 55.9 g. (4.0 × 10 -1 moles) of ethyl glycine hydrochloride in 300 ml. of absolute ethyl alcohol was slowly added (~5 minutes) under a nitrogen atmosphere a solution of 70 ml. (5.0 × 10-1 moles) of triethylamine in 200 ml. of absolute ethyl alcohol. The mixture was heated to reflux and a solution of 17.2 g. (1.0 × 10-1 moles) o-nitrobenzylchloride in 200 ml. of absolute ethyl alcohol was added over a 1.5 hour period. Upon complete addition, the mixture was allowed to reflux for 18 hours, cooled to room temperature and the solvent removed in vacuo. To the solid residue was added 500 ml. of water and enough 10% hydrochloric acid to make the solution acidic (pH~3). The acidic solution was washed with methylene chloride (2 × 150 ml.), made neutral (pH~7) by the addition of saturated sodium bicarbonate and the insoluble oil extracted with methylene chloride (2 × 250 ml). The methylene chloride extracts were combined, washed with water (250 ml.), dried (K2CO3) and the solvent removed in vacuo resulting in a yellow oil. Owing to the instability of the oil toward distillation, the compound was used as such in subsequent reaction.

reactant | ethyl glycine hydrochloride | 4.0 × 10 -1 moles | Cl.C(C)NCC(=O)O
reactant | triethylamine | 5.0 × 10-1 moles | C(C)N(CC)CC | C6H15N
reactant | o-nitrobenzylchloride | 1.0 × 10-1 moles | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
solvent | ethyl alcohol | C(C)O | C2H6O
product | N-(o-Nitrobenzyl)ethyl glycine | [N+](=O)([O-])C1=C(CCCNCC(=O)O)C=CC=C1 | C11H14N2O4
